US07592373B2
7.2.b. N2-isopropyl-quinoline-2,6-diamine
Prepared analogously to Example 3.1.b. from isopropyl-(6-nitroquinolin-2-yl)amine. Yield: 0.51 g (78.1% of theory); C12H15N3 (M=201.27); calc.: molecular ion peak (M+H)+: 202; found: molecular ion peak (M+H)+: 202; Rf value: 0.25 (silica gel, dichloromethane/methanol (19:1)).

reactant | isopropyl-(6-nitroquinolin-2-yl)amine | C(C)(C)NC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C12H13N3O2
solvent | dichloromethane methanol | ClCCl.CO
product | N2-isopropyl-quinoline-2,6-diamine | C(C)(C)NC1=NC2=CC=C(C=C2C=C1)N | C12H15N3
